### PR TITLE
[Merged by Bors] - feat(InfinitePlace/Completion): embeddings of `w.Completion` factor through embeddings of `v.Completion` when `w` lies over `v`

### PR DESCRIPTION
**Pull request by smmercuri**
The class `ComplexEmbedding.LiesOver ψ φ` formalises the property that the complex field embedding `φ : L →+* ℂ` restricted to `K` gives `ψ : K →+* ℂ`, whenever `Algebra K L`. 

If `w : InfinitePlace L` and `v : InfinitePlace K` are such that we have `Algebra v.Completion w.Completion`, then `extensionEmbedding w : L →+* ℂ` restricted to `K` gives `extensionEmbedding v : K  →+* ℂ`.

To avoid diamonds arising from propeq instances when `K = L` we do not construct the global instance `Algebra v.Completion w.Completion` from `Algebra K L`, but assume it instead. It is then required to assume the following compatibility assumptions for the main result of this PR to be true:
- `IsScalarTower (WithAbs v.1) v.Completion w.Completion`
- `ContinuousSMul v.Completion w.Completion`

---

- [x] depends on: #27978  
- [x] depends on: #29969
- [x] depends on: #29944
- [x] depends on: #34230

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/InfinitePlace/Completion.lean [hunk 1]
```diff
@@ -134,6 +135,13 @@ theorem extensionEmbeddingOfIsReal_coe {v : InfinitePlace K} (hv : IsReal v) (x
 @[deprecated (since := "2025-09-24")]
 alias extensionEmbedding_of_isReal_coe := extensionEmbeddingOfIsReal_coe
 
+open UniformSpace.Completion in
+@[simp]
+theorem extensionEmbeddingOfIsReal_apply {v : InfinitePlace K} (hv : IsReal v) (x : v.Completion) :
+    (extensionEmbeddingOfIsReal hv x : ℂ) = extensionEmbedding v x := by
+  refine UniformSpace.Completion.induction_on x ?_ (fun x => by simp)
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/InfinitePlace/Completion.lean]:
```suggestion
  refine UniformSpace.Completion.induction_on x ?_ (by simp)
```

File: Mathlib/NumberTheory/NumberField/InfinitePlace/Completion.lean [hunk 2]
```diff
@@ -219,4 +227,69 @@ def isometryEquivRealOfIsReal {v : InfinitePlace K} (hv : IsReal v) : v.Completi
...
+
+@[simp]
+theorem algebraMap_coe (x : WithAbs v.1) :
+    algebraMap v.Completion w.Completion x = algebraMap (WithAbs v.1) (WithAbs w.1) x := by
+  have := IsScalarTower.algebraMap_apply (WithAbs v.1) v.Completion w.Completion x
+  rw [algebraMap_def] at this
+  simp [this, algebraMap_def, Algebra.algebraMap_self]
+
+/-- Assume that `w.Completion` forms an algebra over `v.Completion` with continuous scalar action,
+such that that `K`, `v.Completion` and `w.Completion` forms a scalar tower.
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/InfinitePlace/Completion.lean]:
```suggestion
such that that `IsScalarTower K v.Completion w.Completion`.
```
Seems clearer.

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

**Comment by kbuzzard** [comment]
bors d+
